US06369069B1
c) 2-(4-Bromo-2-methanesulfonylbenzyl)isoindole-1,3-dione
3.0 g of 4-bromo-1-bromomethyl-2-methanesulfonylbenzene and 2.0 g of potassium phthalimide are stirred at 100° C. for 1 h in 30 ml of anhydrous DMF. The mixture is allowed to cool, diluted with 200 ml of water and the suspension is stirred at RT for 30 minutes. The product is then filtered off and 1.8 g of a colorless solid are obtained, mp 188-190° C.

reactant | 4-bromo-1-bromomethyl-2-methanesulfonylbenzene | 3.0 g | BrC1=CC(=C(C=C1)CBr)S(=O)(=O)C | C8H8Br2O2S
reactant | potassium phthalimide | 2.0 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
solvent | water | 200 ml | O | H2O
product | 2-(4-Bromo-2-methanesulfonylbenzyl)isoindole-1,3-dione | 1.8 g | BrC1=CC(=C(CN2C(C3=CC=CC=C3C2=O)=O)C=C1)S(=O)(=O)C | C16H12BrNO4S
